US08293897B2
A mixture of 1-(2-hydroxyethyl)cyclopropanol (86 mg, 0.843 mmol) and triethylamine (136 mg, 1.35 mmol, Shantou Xilong chemical factory) in 10 mL of dichloromethane was stirred at −10° C. for 30 min. Methanesulfonyl chloride (106 mg, 0.927 mmol, Shanghai Haiqu chemical Ltd.) was then added via a syringe. The reaction was stirred at −10° C. for 1 hr at rt and then quenched with 1 mL ice-water. The resulted mixture was extracted with dichloromethane (20 mL×3). The combined organic phases were dried over Na2SO4 and concentrated in vacuo to afford 2-(1-hydroxycyclopropyl)ethyl methanesulfonate as yellow oil (used in the next step without further purification).

reactant | 1-(2-hydroxyethyl)cyclopropanol | 0.843 mmol, 86 mg | OCCC1(CC1)O | C5H10O2
reactant | triethylamine | 1.35 mmol, 136 mg | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.927 mmol, 106 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(1-hydroxycyclopropyl)ethyl methanesulfonate | CS(=O)(=O)OCCC1(CC1)O | C6H12O4S
